* OVERALL BEST CANDIDATE: 00_Phase_3_12V_to_380V_DC_Bus_Boost_g1_cand2_b1
* FITNESS SCORE: 0.5000
*
* Generated: 2026-06-05T22:27:03
* Constraint: Phase 3: 12V to 380V DC Bus (Boost)
*   vin_min = 11
*   vin_max = 14
*   vout_target = 380
*   efficiency_target = 0.93
*   power_in = 400
* Candidate: 2 of 12
* Grouped name: g1_cand2
*
* 14V to 380V Boost, 400W
Vin in 0 14
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 361
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
